US07399767B2
7-Hydroxy-4-methyl-3-pyridin-4-yl-chromen-2-one
To a solution of 7-methoxy-4-methyl-3-pyridin-4-yl-chromen-2-one (600 mg, 2.24 mmoL) in CH2Cl2 (10 mL) at 0° C. was added EtSH (˜1 mL) followed by AlBr3 (6.74 mmoL, 1.80 g). The mixture was slowly warm to room temperature and poured into ice sat. NaHCO3 solution. Extraction was conducted 3× with CH2Cl2. The combined organic layer was washed with brine, dried over anhydrous Na2SO4, filtered and concentrated to give the crude material, which was then purified by silica gel column chromatography using hexanes:ethyl acetate 1:1 as eluent to afford the title product as pale yellow solid.

reactant | 7-methoxy-4-methyl-3-pyridin-4-yl-chromen-2-one | 600 mg | COC1=CC=C2C(=C(C(OC2=C1)=O)C1=CC=NC=C1)C | C16H13NO3
reactant | EtSH | ˜1 mL | CCS | C2H6S
reactant | AlBr3 | 1.80 g | [Al](Br)(Br)Br
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 7-Hydroxy-4-methyl-3-pyridin-4-yl-chromen-2-one | OC1=CC=C2C(=C(C(OC2=C1)=O)C1=CC=NC=C1)C | C15H11NO3
